US06706888B2
To the solution of N-bromosuccimide (4.5 g ) in acetic acid (14.5 ml), was added dropwise 2.3 ml of 3,4-dihydro-2H-pyran at 10° C. The reaction mixture was diluted with 50 ml of diethyl ether and washed with 50 ml of water three times. The organic layer was washed with 1N NaHCO3 solution, dried, and then concentrated under a reduced pressure to give 4.1 g of 2-acetoxy-3-bromo-tetrahydropyran as a colorless oil (yield: 73%).

reactant | N-bromosuccimide | 4.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 3,4-dihydro-2H-pyran | 2.3 ml | O1CCCC=C1 | C5H8O
reactant | acetic acid | 14.5 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-acetoxy-3-bromo-tetrahydropyran | 4.1 g, yield: 73% | C(C)(=O)OC1OCCCC1Br | C7H11BrO3
